US05516774
N-[4-(3-Chloro-5H-pyrrolo[2,1-c][1.4]benzodiazepin-10(11H)ylcarbonyl)phenyl]-2-methylbenzamide
A mixture of 1 mmol of 3-chloro-10,11-dihydro-10-(4-aminobenzoyl)-5H-pyrrolo[2,1-c][1,4]benzodiazepine, 2 mmol of triethylamine, and 1.1 mmol of 2-methylbenzoylchloride in 8 ml of dichloromethane is stirred at room temperature overnight. The mixture is washed with water, and 1M NaHCO3 and dried(Na2SO4). The solvent is removed in vacuo to give a solid which is recrystallized from dichloromethane-hexane to give crystals, 185°-187° C.

reactant | 3-chloro-10,11-dihydro-10-(4-aminobenzoyl)-5H-pyrrolo[2,1-c][1,4]benzodiazepine | 1 mmol | ClC1=CC=C2CN(C3=C(CN21)C=CC=C3)C(C3=CC=C(C=C3)N)=O | C19H16ClN3O
reactant | triethylamine | 2 mmol | C(C)N(CC)CC | C6H15N
reactant | 2-methylbenzoylchloride | 1.1 mmol | CC1=C(C(=O)Cl)C=CC=C1 | C8H7ClO
solvent | dichloromethane | 8 ml | ClCCl | CH2Cl2
product | N-[4-(3-Chloro-5H-pyrrolo[2,1-c][1.4]benzodiazepin-10(11H)ylcarbonyl)phenyl]-2-methylbenzamide | ClC1=CC=C2CN(C3=C(CN21)C=CC=C3)C(=O)C3=CC=C(C=C3)NC(C3=C(C=CC=C3)C)=O | C27H22ClN3O2
